US06194409B1
102e. {[2-{2-(S)-[Benzyloxy-carbonyl]-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester
A mixture of (L)-proline benzyl ester hydrochloride (0.49 g), N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid (0.760 g), N-methyl morpholine (0.93 mL) and 0.65 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetra-fluoroborate (TBTU) in 10 mL of dry N,N-dimethyl formamide was stirred for 16 h at ambient temperature. The volatiles were pumped off and water was added followed by extraction with ethyl acetate and concentration of the organic layer. The remaining residue was purified by silica chromatography (isohexane/ethyl acetate 1/2). Yield: 0.99 g (86%); colorless oil; (+)-APCI-MS: 569 (MH+).

reactant | (L)-proline benzyl ester hydrochloride | 0.49 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid | 0.760 g | C(C)OC(=O)CN([C@@H](C(=O)O)CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H27NO7
reactant | N-methyl morpholine | 0.93 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetra-fluoroborate | 0.65 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | {[2-{2-(S)-[Benzyloxy-carbonyl]-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester | C(C)OC(CN(C(=O)OC(C)(C)C)[C@@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O | C31H40N2O8
